US06780996B2
A reaction mixture of 0.12 g (0.38 mmol) of 4-chloro-6-methoxy-7-(4-methylpiperazin-1-yl)-quinoline-3-carbonitrile, 0.077 g (0.42 mmol) of 4-phenoxyaniline and 0.044 g (0.38 mmol) of pyridine hydrochloride in 2 ml of 2-ethoxyethanol is heated at 115° C. for 45 minutes. After cooling, the mixture is filtered, washed with cold 2-ethoxyethanol, then ethyl acetate. After drying in vacuo, the solid is suspended in a saturated solution of sodium carbonate, stirred for 45 minutes and collected by filtration. The reaction product is washed with water and dried in vacuo, to provide 0.11 g of 6-methoxy-7-(4-methylpiperazin-1-yl)-4-(4-phenoxyphenylamino)-quinoline-3-carbonitrile as a yellow solid, mp softens at 93° C.

reactant | 4-chloro-6-methoxy-7-(4-methylpiperazin-1-yl)-quinoline-3-carbonitrile | 0.38 mmol, 0.12 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)N1CCN(CC1)C)C#N | C16H17ClN4O
reactant | 4-phenoxyaniline | 0.42 mmol, 0.077 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | pyridine hydrochloride | 0.38 mmol, 0.044 g | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 2 ml | C(C)OCCO | C4H10O2
product | 6-methoxy-7-(4-methylpiperazin-1-yl)-4-(4-phenoxyphenylamino)-quinoline-3-carbonitrile | 0.11 g | COC=1C=C2C(=C(C=NC2=CC1N1CCN(CC1)C)C#N)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C28H27N5O2
